US09315502B2
Intermediate N: 4-(6-Bromo-imidazo[1,2-a]pyridin-3-yl)-benzonitrile
The title compound, light brown solid (0.47 g, 73%), MS (ISP) m/z=298.4 [(M+H)+], mp 176° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available 4-cyano-phenylboronic acid (0.36 g, 2.38 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 4-cyano-phenylboronic acid | 2.38 mmol, 0.36 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-(6-Bromo-imidazo[1,2-a]pyridin-3-yl)-benzonitrile | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=C(C#N)C=C2 | C14H8BrN3
